US07531542B2
4-tert-butyl-N-(2-hydroxy-3-nitrophenyl)benzamide:
Ref.: WO 96/11917. To a solution of 4-tert-butyl benzoic acid (0.81 g, 4.57 mmol) in CH2Cl2 (10 mL) cooled in an ice bath was added 1,1′-carbonyldiimidazole (0.94 g, 5.80 mmol). The solution was stirred for 5 min., then the bath was removed and the reaction was stirred at room temperature for 1.5 h. To a solution of 2-amino-6-nitro phenol (0.829 g, 5.38 mmol) in CH2Cl2 (40 mL) cooled in an ice bath was added the activated acid solution dropwise. The reaction was allowed to stir and gradually come to room temperature overnight. To the solution was added CH2Cl2 (50 mL) and H2O (25 mL) and the layers were separated. The aqueous layer was extracted with CH2Cl2 (2×30 mL). The combined organic layers were washed with H2O (25 mL), 1 N HCl (25 mL), and brine (25 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude material was adsorbed onto silica gel and purified by silica gel chromatography, eluting with 66% CH2Cl2/hexane to 75% CH2Cl2/hexane to afford the title compound (0.579 g) as a golden solid. MS (ESI-POS): [M+H]+=315; Anal. Calc'd for C17H18N2O4: C, 64.96; H, 5.77; N, 8.91. Found: C, 64.98; H, 5.78; N, 8.89.

reactant | 4-tert-butyl benzoic acid | 4.57 mmol, 0.81 g | C(C)(C)(C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | 1,1′-carbonyldiimidazole | 5.80 mmol, 0.94 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-amino-6-nitro phenol | 5.38 mmol, 0.829 g | NC1=C(C(=CC=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | H2O | 25 mL | O | H2O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-tert-butyl-N-(2-hydroxy-3-nitrophenyl)benzamide | 0.579 g | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=CC=C2)[N+](=O)[O-])O)C=C1 | C17H18N2O4
